US07855216B2
Step 3: 7-Trifluoromethanesulfonyloxy-5-methyl-5H-pyrrolo[3,2-c]pyridazine-6-carboxylic acid ethyl ester
A suspension of 7-hydroxy-5-methyl-5H-pyrrolo[3,2-c]pyridazine-6-carboxylic acid ethyl ester (360 mg, 1.63 mmol), PhN(Tf)2 (873 mg, 2.45 mmol), DIPEA (1.14 mL, 6.5 mmol) in ethyleneglycol dimethyl ether (15 ml) was heated at 90° C. for 3 hours. The cooled reaction mixture was concentrated in vacuo and the residue partitioned between ethyl acetate and water, the aqueous layer separated and extracted further with ethyl acetate. The combined organic extracts were dried (Na2SO4), filtered and concentrated in vacuo and the resultant residue subjected to flash chromatography (Si-PPC gradient 0:100 to 50:50 ethyl acetate:DCM) to give the title compound as a tan solid (248 mg, 43%). LCMS (method B): RT=3.26 min, M+H+=354.

reactant | 7-hydroxy-5-methyl-5H-pyrrolo[3,2-c]pyridazine-6-carboxylic acid ethyl ester | 1.63 mmol, 360 mg | C(C)OC(=O)C1=C(C=2N=NC=CC2N1C)O | C10H11N3O3
reactant | PhN(Tf)2 | 2.45 mmol, 873 mg | C1(=CC=CC=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | DIPEA | 6.5 mmol, 1.14 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | ethyleneglycol dimethyl ether | 15 ml | COCCOC | C4H10O2
product | 7-Trifluoromethanesulfonyloxy-5-methyl-5H-pyrrolo[3,2-c]pyridazine-6-carboxylic acid ethyl ester | 248 mg, 43% | C(C)OC(=O)C1=C(C=2N=NC=CC2N1C)OS(=O)(=O)C(F)(F)F | C11H10F3N3O5S
